US06291721B1
Preparation of 1-[1-(p-Chlorophenyl)-2-methoxyvinyl]cyclopropane, (E)— and (Z)—
Water is azeotropically removed from a solution of p-toluenesulfonic acid monohydrate in toluene (150 g) until the distillate is clear. A solution of 1-[1-(p-chlorophenyl)-2,2-dimethoxyethyl]cyclopropane (24.7 g, 0.1 mol) in toluene is then added to the dried solution at 100° C. The resultant reaction mixture is refluxed for one hour, distilled to remove about 80 g of toluene/methanol, cooled to room temperature, treated with sodium carbonate (1 g), and poured into a saturated bicarbonate solution (100 mL). The organic phase is separated, washed with water, dried over anhydrous magnesium sulfate, and concentrated in vacuo to give the title product (20 g, 96% yield).

reactant | 1-[1-(p-chlorophenyl)-2,2-dimethoxyethyl]cyclopropane | 0.1 mol, 24.7 g | ClC1=CC=C(C=C1)C(C(OC)OC)C1CC1 | C13H17ClO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-[1-(p-Chlorophenyl)-2-methoxyvinyl]cyclopropane | 20 g, 96% yield | ClC1=CC=C(C=C1)C(=COC)C1CC1 | C12H13ClO
